US07759385B2
3-(1-benzyl-1,2,5,6-tetrahydropyridine-3-yl)-1H-indole (430 mg, 1.48 mmole) was dissolved in methanol (30 ml) under argon. Pd/carbon (43 mg, 10%) was added and the reaction mixture was hydrogenated for 16 hours at 2 bar. The reaction mixture was worked up by filtering the solution through silica gel and washing with methanol (10×10 ml). The filtrate was concentrated by evaporation and dried. 3-piperidine-3-yl-1H-indole was obtained as a yellow oil in a yield of 233 g (79%).

reactant | 3-(1-benzyl-1,2,5,6-tetrahydropyridine-3-yl)-1H-indole | 1.48 mmole, 430 mg | C(C1=CC=CC=C1)N1CC(=CCC1)C1=CNC2=CC=CC=C12 | C20H20N2
solvent | methanol | 30 ml | CO | CH4O
catalyst | Pd carbon | 43 mg | [Pd].[C]
product | 3-piperidine-3-yl-1H-indole | N1CC(CCC1)C1=CNC2=CC=CC=C12 | C13H16N2
